US04318915
2-bromo-2-(2,6-dichlorophenyl)-acetyl bromide
To 36.0 g (0.134 mols) 2,6-dichlorophenyl acetyl bromide, are added in drops at 160 degrees C., 21.5 g (0.134 mols) bromine over 3 hours, and the resultant mixture is then stirred for another 2 hours at 170 degrees C. While stirring, 100 ml hexane are added at 90 degrees C., followed by suction-filtering of the bromide after cooling.

reactant | 2,6-dichlorophenyl acetyl bromide | 0.134 mols, 36.0 g | ClC1=C(C(=CC=C1)Cl)CC(=O)Br | C8H5BrCl2O
reactant | bromine | 0.134 mols, 21.5 g | BrBr | Br2
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 2-bromo-2-(2,6-dichlorophenyl)-acetyl bromide | BrC(C(=O)Br)C1=C(C=CC=C1Cl)Cl | C8H4Br2Cl2O
